US05968930
10 [4-[[(2,5-Dichlorophenyl)sulfonyl]amino]benzoyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine
A mixture of 0.10 g of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine, 0.050 g of triethylamine and 0.083 g of 2,5-dichlorobenzenesulfonyl chloride in 2 ml of dichloromethane is stirred at room temperature for 1 hour and then 4 mg of 4-(N,N-dimethylamino)pyridine is added. After another hour, 93 mg of 2,5-dichlorobenzenesulfonyl chloride is added along with 50 mg of triethylamine. The mixture is stirred at room temperature for 2 days and 1 N NaOH added. The mixture is extracted with ethyl acetate and the extract washed with 50% ammonium chloride solution, brine and dried (Na2SO4). The solvent is removed to give 0.30 g of solid. Trituration with ether-hexane gives 0.26 g of solid. This solid is dissolved in a mixture of 5 ml of tetrahydrofuran, 1 ml of methanol, 1 ml of 1 N NaOH and the mixture stirred for 18 hours at room temperature. The organic solvents are removed and the mixture extracted with ether acetate. The extract is washed with NaHCO3, brine and dried (Na2SO4). The solvent is removed and the residue (0.16 g) triturated with ether to give 0.14 g of yellow solid.

reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.10 g | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
reactant | triethylamine | 0.050 g | C(C)N(CC)CC | C6H15N
reactant | 2,5-dichlorobenzenesulfonyl chloride | 0.083 g | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | 2,5-dichlorobenzenesulfonyl chloride | 93 mg | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | triethylamine | 50 mg | C(C)N(CC)CC | C6H15N
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 4 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | [4-[[(2,5-Dichlorophenyl)sulfonyl]amino]benzoyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.30 g | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)NC1=CC=C(C(=O)C=2C=CN3C2CNC2=C(C3)C=CC=C2)C=C1 | C25H19Cl2N3O3S
